US07625932B2
Preparation of 4-cyano-5-ethyl-3-[4-(2-amino-phenoxy)-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Combine 4-cyano-5-ethyl-3-[4-(2-nitro-phenoxy)-phenyl]-1-methyl-1H-pyrole-2-carboxylic acid ethyl ester (prepared in example E-230) and tin(II) chloride dihydrate (5 Eq.) in absolute ethanol (20 mL), and heat at reflux with stirring under a nitrogen atmosphere for 3 hours. Cool the reaction mixture to room temperature and dilute with ethyl acetate. Wash the organic layer with water, dry over potassium carbonate, filter, and concentrate under reduced vacuum. Purify the material by silica gel chromatography eluting with methylene chloride to provide the title compound.

reactant | 4-cyano-5-ethyl-3-[4-(2-nitro-phenoxy)-phenyl]-1-methyl-1H-pyrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)OC1=C(C=CC=C1)[N+](=O)[O-])C#N)CC)C | C23H21N3O5
reactant | tin(II) chloride dihydrate | 5 Eq. | O.O.[Sn](Cl)Cl
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-cyano-5-ethyl-3-[4-(2-amino-phenoxy)-phenyl]-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)OC1=C(C=CC=C1)N)C#N)CC)C | C23H23N3O3
